US09302998B2
STEP B: 1-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-5-[4-(t-butyl-dimethyl-silanyloxymethyl)-phenyl]-1H-[1,2,3]triazole-4-carboxylic acid methyl ester
A DMF solution (2.5 ml) containing 1,5-bis-benzyloxy-2-isopropyl-4-azido-benzene (373 mg, 1 mmol) and [4-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-propynoic acid methyl ester (277 mg, 0.91 mmol) was degassed at RT by means of three vacuum-nitrogen cycles. [Cp*RuCl]4 (49 mg, 0.045 mmol) was then added and other three cycles were done. The reaction was stirred at RT until completion (monitored by TLC). AcOEt and water were then added. After standard work-up, the crude reaction mixture was purified by column chromatography (PE/AcOEt:60/40) to get the desired adduct as an oil.

reactant | DMF | 2.5 ml | CN(C)C=O | C3H7NO
reactant | 1,5-bis-benzyloxy-2-isopropyl-4-azido-benzene | 1 mmol, 373 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)N=[N+]=[N-])C(C)C | C23H23N3O2
reactant | [4-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-propynoic acid methyl ester | 0.91 mmol, 277 mg | COC(C#CC1=CC=C(C=C1)C(O[SiH2]C(C)(C)C)(C)C)=O | C17H24O3Si
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 1-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-5-[4-(t-butyl-dimethyl-silanyloxymethyl)-phenyl]-1H-[1,2,3]triazole-4-carboxylic acid methyl ester | Yield: 68% | COC(=O)C=1N=NN(C1C1=CC=C(C=C1)C(O[SiH2]C(C)(C)C)(C)C)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C40H47N3O5Si
